US09170266B2
Potassium carbonate (22.0 g, 159 mmol) was suspended in acetonitrile, 3-bromoaniline (8.71 mL, 80.0 mmol) and allyl bromide (23.7 mL, 280 mmol) were added to the suspension, and the mixture was stirred at 80° C. for 14 hours. The reaction mixture was cooled to room temperature, then filtered through Celite, and sufficiently washed with ethyl acetate. The solvent was removed, and then the residue was purified by column chromatography (silica gel, ethyl acetate/hexane (1/40)) to obtain 3-bromo-N,N-diallylaniline (17.1 g, 67.9 mmol, yield 85%).

reactant | Potassium carbonate | 159 mmol, 22.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromoaniline | 80.0 mmol, 8.71 mL | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | allyl bromide | 280 mmol, 23.7 mL | C(C=C)Br | C3H5Br
reactant | acetonitrile | C(C)#N | C2H3N
product | 3-bromo-N,N-diallylaniline | 67.9 mmol, 17.1 g, yield 85% | BrC=1C=C(N(CC=C)CC=C)C=CC1 | C12H14BrN
